US04550105
To a solution of 0.494 g of (3S,4S)-4-acetoxy-3-phenoxyacetamido-2-oxoazetidine in 14 ml of 50% methanol is added 0.51 g of sodium methylsulfinate and the mixture is stirred at room temperature for 18 hours. The methanol is distilled off under reduced pressure to give 222 mg of (3R,4S)-4-methylsulfonyl-3-phenoxyacetamido-2-oxoazetidine.

reactant | (3S,4S)-4-acetoxy-3-phenoxyacetamido-2-oxoazetidine | 0.494 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(COC1=CC=CC=C1)=O | C13H14N2O5
reactant | sodium methylsulfinate | 0.51 g | CS(=O)[O-].[Na+]
solvent | methanol | 14 ml | CO | CH4O
product | (3R,4S)-4-methylsulfonyl-3-phenoxyacetamido-2-oxoazetidine | 222 mg | CS(=O)(=O)[C@H]1[C@@H](C(N1)=O)NC(COC1=CC=CC=C1)=O | C12H14N2O5S
